US05256780
A mixture of 3,4-dihydro-5-methyl-2-[1-(5-methyl-1-trityl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]indol-1(2H)-one (60 mg) in 70% acetic acid in water (2.6 ml) was stirred at 60° C. for 2 hours. After evaporation of the solvent, the residue was dissolved in 10% methanol in chloroform. The mixture was washed with aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (10% methanol-chloroform) to give 3,4-dihydro-5-methyl-2-[1-(5-methyl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]-indol-1(2H)-one as a powder. The powder was dissolved in 9N hydrogen chloride in ethanol (1 ml) and evaporated in vacuo. The residue was triturated with ether to give 3,4-dihydro-5-methyl-2-[1-(5-methyl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a[indol-1(2H)-one hydrochloride (36.8 mg).

reactant | 3,4-dihydro-5-methyl-2-[1-(5-methyl-1-trityl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]indol-1(2H)-one | 60 mg | CC1=C2N(C3=CC=CC=C13)C(N(CC2)C(C)C=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H34N4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2.6 ml | O | H2O
product | 3,4-dihydro-5-methyl-2-[1-(5-methyl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]-indol-1(2H)-one | CC1=C2N(C3=CC=CC=C13)C(N(CC2)C(C)C=2N=CNC2C)=O | C18H20N4O
